US05030641
f) 2-Azido-2-methylpropionic acid 4-hydroxymethyl piperidide
15 g. (0.13 mole) 4-Hydroxymethylpiperidine are dissolved in 130 ml. water and 30 ml. dioxan and 19.4 g. (0.13 mole) 2-azido-2-methylpropionic acid chloride (according to analogous literature: J.A.C.S., 77, 112/1955) added dropwise thereto. The pH of the solution is kept at 12 to 12.5 by the simultaneous dropwise addition of 2N aqueous sodium hydroxide solution. After ending of the reaction, the reaction mixture is extracted with diethyl ether. After drying with anhydrous sodium sulphate and evaporating, there are obtained 17.8 g. of crude oil, i.e. 60% of theory, which can be used in the next step without further purification.

reactant | 4-Hydroxymethylpiperidine | 0.13 mole | OCC1CCNCC1 | C6H13NO
reactant | water | O | H2O
reactant | 2-azido-2-methylpropionic acid chloride | 0.13 mole | N(=[N+]=[N-])C(C(=O)Cl)(C)C | C4H6ClN3O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2-Azido-2-methylpropionic acid 4-hydroxymethyl piperidide | OCC1CCN(CC1)C(C(C)(C)N=[N+]=[N-])=O | C10H18N4O2
